US05703087
(2-Benzyloxyethyl)aminoacetonitrile, 5a
A mixture of 2-benzyloxyethylamine (40 g) and triethylamine (50 ml) in tetrahydrofuran (500 ml) was treated dropwise with chloroacetonitrile (23 g) at room temperature.

reactant | 2-benzyloxyethylamine | 40 g | C(C1=CC=CC=C1)OCCN | C9H13NO
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
reactant | chloroacetonitrile | 23 g | ClCC#N | C2H2ClN
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | (2-Benzyloxyethyl)aminoacetonitrile | C(C1=CC=CC=C1)OCCNCC#N | C11H14N2O
